**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 5
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_1.gazi.20bf7dd9-e8f6-4d35-86d2-f717906dc109/common/model_files/dut_1.cir

** Start testbenches

********************* dut testbench 21_0 *********************
v_gs_ac_21_0 g_21_0 g_ac_21_0 DC 0 AC 1
e_gs_21_0 g_ac_21_0 0 v_sweep 0 1
v_ds_21_0 d_21_0 0 0.0
v_s_21_0 s_21_0 0 0
v_bs_21_0 b_21_0 0 0.0
x_21_0 d_21_0 g_21_0 s_21_0 b_21_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 21_2 *********************
v_gs_ac_21_2 g_21_2 g_ac_21_2 DC 0 AC 1
e_gs_21_2 g_ac_21_2 0 v_sweep 0 1
v_ds_21_2 d_21_2 0 0.0
v_s_21_2 s_21_2 0 0
v_bs_21_2 b_21_2 0 -1.0
x_21_2 d_21_2 g_21_2 s_21_2 b_21_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 1.3827894027159797
alterparam dut a1 = 0.03123662607579958
alterparam dut a2 = 0.35255171841208377
alterparam dut acde = 0.5430312583630019
alterparam dut ags = 0.6285727830967386
alterparam dut cf = 6.287139206982749e-11
alterparam dut cgdl = 9.839053257811643e-11
alterparam dut cgdo = 1.7636714205700086e-10
alterparam dut ckappas = 2.9244992969683024
alterparam dut clc = 2.6428505914885875e-07
alterparam dut cle = 0.6922332627323993
alterparam dut dlc = 1*-4.678866847953163e-08
alterparam dut drout = 1.5165752062410347
alterparam dut dsub = 0.49232600806736626
alterparam dut dvt0 = 17.393169717463852
alterparam dut dvt0w = 0.950587467716806
alterparam dut dvt1 = 0.5716425002505388
alterparam dut dvt1w = 3.078289026621075
alterparam dut dvt2 = 1*-0.06905884253049907
alterparam dut dvt2w = 1*-0.015434144812742003
alterparam dut dwg = 6.399969296359024e-08
alterparam dut eta0 = 0.6632952785748896
alterparam dut etab = 1*-0.35348098174488546
alterparam dut k1 = 0.8588259825860113
alterparam dut k2 = 1*-0.005011840901026715
alterparam dut k3 = 72.36579483434673
alterparam dut k3b = 1*-22.64737606361312
alterparam dut keta = 1*-0.03180629584301457
alterparam dut lint = 1.6139231947121855e-08
alterparam dut ll = 2.784803122761965e-14
alterparam dut moin = 11.271335714970554
alterparam dut ndep = 3.091163961174721e+16
alterparam dut nfactor = 0.9024683193691234
alterparam dut ngate = 3.5271447839778475e+22
alterparam dut noff = 2.740102920817917
alterparam dut pclm = 0.0002127578206912239
alterparam dut pdiblc1 = 0.004784099322354888
alterparam dut pdiblc2 = 0.01601370849627194
alterparam dut pdiblcb = 0.09139002736824287
alterparam dut pvag = 0.7026529872344045
alterparam dut rdsw = 1821.7141067953617
alterparam dut toxp = 2.5869810677701573e-09
alterparam dut u0 = 62.968946857310236
alterparam dut ua = 1*-1.293426812992798e-09
alterparam dut ub = 9.654777505771369e-21
alterparam dut uc = 1*-3.6295767647426316e-10
alterparam dut voff = 1*-0.05417192064577364
alterparam dut voffcv = 0.04057814121828518
alterparam dut vsat = 5279.908020017289
alterparam dut vth0 = 0.8316279470422505
alterparam dut w0 = 1.519461526889712e-08
alterparam dut wint = 4.3921333991945094e-08
alterparam dut ww = 1*-2.9725526689588125e-14
alterparam dut wwl = 1*-9.458271066499948e-20
alterparam dut lwl = 3.710483132513365e-20
alterparam dut voffl = 1*-3.253009738339453e-08
alterparam dut xpart = 0.6388649360661007
alterparam dut bin_pvsat = 0.3808068698722395
alterparam dut bin_prdsw = 0.5406311634757966
alterparam dut bin_ppclm = 0.091160216793442
alterparam dut bin_wketa = 0.849549695305563
alterparam dut bin_lketa = 0.684850634459069
alterparam dut bin_pketa = 0.2310151013669785
alterparam dut bin_wk3 = 0.488423183143909
alterparam dut bin_wk3b = 0.5778571013151532
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_21_0) i(v_s_21_2)

** Write the header of the results file.
echo "vgs,cgs_21_0,cgs_21_2" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_1.gazi.20bf7dd9-e8f6-4d35-86d2-f717906dc109/models/modeli_1.15059f60-5751-4550-89d6-0db412e03fff/calibration_23_07_2024-22_58_30/simulation_files/ac_point_dc_sweep_5.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgs_21_0 = abs(imag(i(v_s_21_0)))/2*pi*10000.0
    let cgs_21_2 = abs(imag(i(v_s_21_2)))/2*pi*10000.0

    echo "$val,$&cgs_21_0,$&cgs_21_2" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_1.gazi.20bf7dd9-e8f6-4d35-86d2-f717906dc109/models/modeli_1.15059f60-5751-4550-89d6-0db412e03fff/calibration_23_07_2024-22_58_30/simulation_files/ac_point_dc_sweep_5.csv
end

.endc
********** End of control section **********

.end